US07326447B2
103 g (0.188 mol) of 3-benzyloxy-6-bromo-2-fluorophenyl 6-bromo-3-ethoxy-2-fluorobenzoate were dissolved in 1 l of DMF and refluxed for 72 hours in the presence of 119 g (1.88 mol) of copper powder. The batch was subsequently diluted with water and extracted with ethyl acetate, and the combined extracts were dried over sodium sulfate and evaporated. Crystallisation of the crude product from THF gave 15 g (21% of theory) of 8-ethoxy-4,7-difluoro-3-benzyloxybenzo[c]chromen-6-one as pale-yellow crystals.

reactant | 3-benzyloxy-6-bromo-2-fluorophenyl 6-bromo-3-ethoxy-2-fluorobenzoate | 0.188 mol, 103 g | BrC1=CC=C(C(=C1C(=O)OC1=C(C(=CC=C1Br)OCC1=CC=CC=C1)F)F)OCC | C22H16Br2F2O4
solvent | DMF | 1 l | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | copper | 1.88 mol, 119 g | [Cu] | Cu
product | 8-ethoxy-4,7-difluoro-3-benzyloxybenzo[c]chromen-6-one | 15 g, 21% | C(C)OC=1C=CC2=C(C(OC3=C(C(=CC=C23)OCC2=CC=CC=C2)F)=O)C1F | C22H16F2O4
